US08431563B2
To a solution of 4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinecarbaldehyde (45 mg, 0.100 mmol) and morpholine (26.2 mg, 0.301 mmol, Aldrich, St. Louis, Mo.) in 1,2-dichloroethane (2.0 mL) was added sodium triacetoxyborohydride (106 mg, 0.502 mmol) and acetic acid (5.74 μL, 0.100 mmol). The reaction was stirred at room temperature for 1 h then quenched with methanol (5 mL) and concentrated. The crude material was dissolved in methanol, filtered and purified using prep HPLC (Phenomenex C18 column (150×30 mm) eluting with TFA in CH3CN/H2O (10% to 90% gradient over 25 min) at a 30 mL/min flow rate) to yield 1,1,1-trifluoro-2-(4-(2-(4-morpholinylmethyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol (5 mg) as a mixture of four isomers.

reactant | 4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinecarbaldehyde | 0.100 mmol, 45 mg | S1C(=CC=C1)S(=O)(=O)N1CC(N(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C)O)C=O | C18H19F3N2O4S2
reactant | morpholine | 0.301 mmol, 26.2 mg | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | 0.502 mmol, 106 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.100 mmol, 5.74 μL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 2.0 mL | ClCCCl | C2H4Cl2
product | 1,1,1-trifluoro-2-(4-(2-(4-morpholinylmethyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol | 5 mg | FC(C(C)(O)C1=CC=C(C=C1)N1C(CN(CC1)S(=O)(=O)C=1SC=CC1)CN1CCOCC1)(F)F | C22H28F3N3O4S2
